US04596819
(S)-N-[(1,1-Dimethylethoxy)carbonyl]-N-[4-methyl-2-[[(phenylmethoxy)carbonyl]amino]pentyl]glycine, 1,1-dimethylethyl ester
To a solution of 8.37 g of N-[4-methyl-2-[[(phenylmethoxy)carbonyl]amino]pentyl]glycine, 1,1-dimethylethyl ester in 85 ml of dichloromethane is added a solution of 5.51 g of di-t-butyl dicarbonate in 15 ml of dichloromethane. The solution is stirred at room temperature overnight. An additional 2.01 g of di-t-butyl dicarbonate is added and the solution is stirred for 3.5 hours. The solvent is removed under reduced pressure. The residue is chromatographed on 670 g silica gel eluting with 95:5 chloroform/ethyl acetate then 9:1 chloroform/ethyl acetate giving 9.95 g of an oil.

reactant | N-[4-methyl-2-[[(phenylmethoxy)carbonyl]amino]pentyl]glycine, 1,1-dimethylethyl ester | 8.37 g | CC(CC(CNCC(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)C | C20H32N2O4
reactant | di-t-butyl dicarbonate | 5.51 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-t-butyl dicarbonate | 2.01 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 85 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (S)-N-[(1,1-Dimethylethoxy)carbonyl]-N-[4-methyl-2-[[(phenylmethoxy)carbonyl]amino]pentyl]glycine, 1,1-dimethylethyl ester | CC(C)(OC(=O)N(CC(=O)OC(C)(C)C)C[C@H](CC(C)C)NC(=O)OCC1=CC=CC=C1)C | C25H40N2O6
